US08871790B2
Compound 204.1. Methyl 2,4-dibromobenzoate
A solution of 2,4-dibromobenzoic acid (52.0 g, 176 mmol, 1.00 equiv, 95%) and sulfuric acid (20 mL) in methanol (400 mL) was stirred at 90° C. overnight. After cooling to room temperature, the mixture was concentrated under reduced pressure. The residue was diluted with 500 mL of ethyl acetate and washed with 3×100 mL of H2O followed by 1×100 mL of NaHCO3 (aq., sat. Note: gas evolution occurs). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. This resulted in 45.0 g (78%) of methyl 2,4-dibromobenzoate as a yellow oil.

reactant | 2,4-dibromobenzoic acid | 176 mmol, 52.0 g, 1.00 equiv | BrC1=C(C(=O)O)C=CC(=C1)Br | C7H4Br2O2
reactant | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 400 mL | CO | CH4O
product | Methyl 2,4-dibromobenzoate | BrC1=C(C(=O)OC)C=CC(=C1)Br | C8H6Br2O2
